US07569516B2
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid cyclopropylamide (Compound 1.1)
A mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid (0.85 g, 1.83 mmol) and 1,1-dicarbonylimidazole (0.36 g, 2.20 mmol) in dioxane was heated to. 55° C. for 2 hours. Cyclopropylamine (0.20 ml, 2.83 mmol) was then added and stirring continued at 55° C. for 6 hours. The cooled mixture was diluted with water, extracted with ethyl acetate, washed with aqueous potassium hydrogensulfate (5%), dried over magnesium sulfate and evaporated to give the title compound (0.762 g, yield 87%) as off-white crystals, mp 193° C., 1H NMR (CDCl3): 0.64 (m, 2H, cyclopropyl), 0.83 (m, 2H, cyclopropyl), 2,87 (m,1H, cyclopropyl), 4.31 (bs, 2H, NH2), 6.82 (bs,1 H, C(O)NH), and 7.80 (s, 2H, Ar—H).

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid | 1.83 mmol, 0.85 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O)SC(F)(F)F | C12H5Cl2F6N3O2S
reactant | Cyclopropylamine | 2.83 mmol, 0.20 ml | C1(CC1)N | C3H7N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-1H-pyrazole-3-carboxylic acid cyclopropylamide | 0.762 g, yield 87% | C1(CC1)NC(=O)C1=NN(C(=C1SC(F)(F)F)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H10Cl2F6N4OS
